US05401378
5-Phenyl-3,4-dithiapentanol
A solution of benzylthiol (1.17 ml) in dry toluene (2 ml) was added dropwise over 5 min to a suspension of N-chlorosuccinimide (1.34 g) in toluene (5 ml). The mixture was stirred for 5 min the a mixture of mercaptoethanol (700 μl) and triethylamine (1.34 ml) in toluene (3 ml) was added dropwise over 5 min. The mixture was stirred for a further 10 min the diluted to 30 ml with dichloromethane, washed with water, dried over sodium sulfate, filtered and evaporated to dryness. The residue was purified by column chromatography on silica gel eluted with dichloromethane to afford the title compound (522 mg, 25%).

reactant | benzylthiol | 1.17 ml | C1=CC=C(C=C1)CS | C7H8S
reactant | N-chlorosuccinimide | 1.34 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | mercaptoethanol | 700 μl | SC(C)O | C2H6OS
reactant | triethylamine | 1.34 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Phenyl-3,4-dithiapentanol | 522 mg, 25% | C1(=CC=CC=C1)CSSCCO | C9H12OS2
